US05990114
1-[2-[2-Pyridylamino]ethyl]-4-(2-methoxyphenyl)piperazine (Compound B)
23.5 g of 1-(2-aminoethyl)-4-(2-methoxyphenyl)piperazine [Hexachemie-Reuil Malmaison-France] and 4.85 mL of 2-chloropyridine were stirred at 160° C. in a closed reaction vessel for 10.5 hours. The reaction mixture was cooled to room temperature, dissolved in 320 mL of chloroform and washed with 1N sodium hydroxide (3×320 mL), followed by water (2×400 mL). The organic layer was dried (sodium sulfate) and evaporated to dryness under reduced pressure. The crude product was purified by column flash chromatography eluting with an ethyl acetate-3N NH3 in methanol 100:2 mixture affording, after evaporation of the collected fractions, 5 g of the title compound as an oil. A sample was crystallized from ethyl acetate to give a solid melting at 89-94° C.

reactant | 1-(2-aminoethyl)-4-(2-methoxyphenyl)piperazine | 23.5 g | NCCN1CCN(CC1)C1=C(C=CC=C1)OC | C13H21N3O
reactant | 2-chloropyridine | 4.85 mL | ClC1=NC=CC=C1 | C5H4ClN
solvent | chloroform | 320 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-[2-[2-Pyridylamino]ethyl]-4-(2-methoxyphenyl)piperazine | N1=C(C=CC=C1)NCCN1CCN(CC1)C1=C(C=CC=C1)OC | C18H24N4O
